US09169254B2
Sodium iodide (catalytic amount) and isopropylamine (1.37 g, 23 mmol) were added to a solution of methanesulfonic acid (R)-1-(4-bromo-3,5-dimethyl-phenyl)-5-oxo-pyrrolidin-2-ylmethyl ester (150 mg, 0.399 mmol) in THF (3 ml) at room temperature, and the mixture was heated with stirring at 70° C. for 1.5 days. After cooling to room temperature, the reaction solution was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-methanol) to give (R)-1-(4-bromo-3,5-dimethyl-phenyl)-5-(isopropylamino-methyl)-pyrrolidin-2-one (83 mg, 61%).

reactant | Sodium iodide | [I-].[Na+]
reactant | isopropylamine | 23 mmol, 1.37 g | C(C)(C)N | C3H9N
reactant | methanesulfonic acid (R)-1-(4-bromo-3,5-dimethyl-phenyl)-5-oxo-pyrrolidin-2-ylmethyl ester | 0.399 mmol, 150 mg | BrC1=C(C=C(C=C1C)N1[C@H](CCC1=O)COS(=O)(=O)C)C | C14H18BrNO4S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (R)-1-(4-bromo-3,5-dimethyl-phenyl)-5-(isopropylamino-methyl)-pyrrolidin-2-one | 83 mg, 61% | BrC1=C(C=C(C=C1C)N1C(CC[C@@H]1CNC(C)C)=O)C | C16H23BrN2O
